US07968570B2
A mixture of 2-iodo-4-fluoro-6-methyl-benzoic acid methyl ester (0.294 g, 1.0 mmol), PdCl2(dppf)2 (0.018 g, 0.025 mmol), zinc (0.002 g, 0.03 mmol), Zinc cyanide (0.234 g, 2 mmol) and DMF (3 mL) was stirred at 150° C. for 1 h. The reaction mixture was cooled to room temperature, dissolved in ethyl acetate (50 mL) and washed with water. Combined organic layer was dried (MgSO4), filtered and concentrated. Silica gel column chromatography using 10:1 hexane-ethyl acetate afforded 2-cyano-4-fluoro-6-methyl-benzoic acid methyl ester (0.175 g, 91%).

reactant | 2-iodo-4-fluoro-6-methyl-benzoic acid methyl ester | 1.0 mmol, 0.294 g | COC(C1=C(C=C(C=C1C)F)I)=O | C9H8FIO2
reactant | DMF | 3 mL | CN(C)C=O | C3H7NO
solvent | ethyl acetate | 50 mL | C(C)(=O)OCC | C4H8O2
catalyst | PdCl2(dppf)2 | 0.025 mmol, 0.018 g | C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.Cl[Pd]Cl.[Fe+2]
catalyst | zinc | 0.03 mmol, 0.002 g | [Zn] | Zn
catalyst | Zinc cyanide | 2 mmol, 0.234 g | [C-]#N.[Zn+2].[C-]#N
product | 2-cyano-4-fluoro-6-methyl-benzoic acid methyl ester | 0.175 g, 91% | COC(C1=C(C=C(C=C1C)F)C#N)=O | C10H8FNO2
